US03956269
Preparation of OO-t-Butyl O-p-Tolyl Monoperoxyglutarate ##SPC19##
To a vigorously stirred solution of 4.9 g. (0.045 mole) of 82.0% t-butyl hydroperoxide and 18.0 g. (0.045 mole) of aqueous 10% sodium hydroxide at 10°-14°C was slowly added 8.2 g. (0.034 mole) of 4-(p-tolyloxycarbonyl)butyryl chloride (prepared from p-tolyl 4-carboxybutyrate and thionyl chloride) in 25 ml. of diethyl ether. The reaction mixture was then stirred for 3.5 hours at 8°-10°C. After a work-up similar to that in Example I 8.2 g. (theory, 10.0 g.) of white solid, m.p. 50°-55°C, was obtained. The assay according to "active oxygen" content was 93.6% and the corrected yield was 76.7%.

reactant | t-butyl hydroperoxide | 0.045 mole | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(p-tolyloxycarbonyl)butyryl chloride | 0.034 mole | C1(=CC=C(C=C1)OC(=O)CCCC(=O)Cl)C | C12H13ClO3
reactant | oxygen | O=O | O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-Butyl O-p-Tolyl Monoperoxyglutarate | yield was 76.7% | C(CCCC(=O)OC1=CC=C(C=C1)C)(=O)OOC(C)(C)C | C16H22O5
